US09376443B2
(S)-2-(Tetrahydrofuran-3-yloxymethyl)pyridine-1-oxide
(S)-2-(Tetrahydrofuran-3-yloxymethyl)pyridine (110.33 g, 0.616 mol, 1 eq) was dissolved in 900 mL DCM and cooled in an ice bath. 3-Chloroperoxybenzoic acid (151.77 g, 0.677 mol, 1.1 eq) was added and the solution was warmed to room temperature and stirred overnight. K2CO3 (85.09 g, 0.616 mol, 1 eq) was added as a solid and stirred for 2 hours. The white precipitate was filtered off and the filter cake washed with dichloromethane. Another portion of K2CO3 (85.09 g, 0.616 mol, 1 eq) was added to the filtrate and stirred for 3 days. The white solid was filtered off and the filtrate evaporated to give the title compound (119.62 g, 99%) as a yellow oil; LC-MS Retention time 1.27 min; (M+H)+ 196.

reactant | (S)-2-(Tetrahydrofuran-3-yloxymethyl)pyridine | 0.616 mol, 110.33 g, 1 eq | O1C[C@H](CC1)OCC1=NC=CC=C1 | C10H13NO2
reactant | 3-Chloroperoxybenzoic acid | 0.677 mol, 151.77 g, 1.1 eq | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | K2CO3 | 0.616 mol, 85.09 g, 1 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 0.616 mol, 85.09 g, 1 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 900 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(Tetrahydrofuran-3-yloxymethyl)pyridine-1-oxide | 119.62 g, 99% | O1C[C@H](CC1)OCC1=[N+](C=CC=C1)[O-] | C10H13NO3
